US04521325
A stirred, degassed suspension of dodecylhydrazine hydrochloride (4.62 g, 0.017 mole) in diethyl ether (15 mL) was cooled under nitrogen and 4N aqueous potassium hydroxide (8.7 mL, 0.035 mole) was added. Stirring was continued as methyl isocyanate (0.97 g, 0.017 mole) in 5 mL diethyl ether was added dropwise. The mixture was filtered to yield 4.12 g (94.7%) N-methyl-1-dodecyl-hydrazinecarboxamide (m.p. 73°-75° C.). NMR analysis confirmed the structure.

reactant | dodecylhydrazine hydrochloride | 0.017 mole, 4.62 g | Cl.C(CCCCCCCCCCC)NN
reactant | potassium hydroxide | 0.035 mole, 4N, 8.7 mL | [OH-].[K+]
reactant | methyl isocyanate | 0.017 mole, 0.97 g | CN=C=O | C2H3NO
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | N-methyl-1-dodecyl-hydrazinecarboxamide | 4.12 g, 94.7% | CNC(=O)N(N)CCCCCCCCCCCC | C14H31N3O
